US04146715
A mixture of 9-(2-hydroxyethoxymethyl)guanine (2.46 g), dry pyridine (400 ml), and pivalic anhydride (6.5 ml) was heated on a steam bath for a total of 33 days. On day 11 additional pyridine (150 ml) was added, and on day 27 dimethylformamide (50 ml) was added. Volatiles were removed under reduced pressure, and the residue was triturated with ethyl acetate. The insoluble solid was removed by filtration and dissolved in methanol-acetone. Silica gel (3 g) was added and the solvent evaporated. The residue was added to a column of silica gel (180 g) in acetone. Elution with acetone yielded an initial fraction of N,O-diacylated material followed by a fraction containing the desired monoacylated product. The acetone was evaporated from this latter fraction, and the residue was recrystallized from dimethylformamide-acetonitrile-ethyl acetate to give 9-[2-(2,2-dimethylpropionyloxy)ethoxymethyl]guanine (0.5 g), m.p. 245°-246° C.

reactant | 9-(2-hydroxyethoxymethyl)guanine | 2.46 g | OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
reactant | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
reactant | pivalic anhydride | 6.5 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 9-[2-(2,2-dimethylpropionyloxy)ethoxymethyl]guanine | 0.5 g | CC(C(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)N)(C)C | C13H19N5O4
